2181-03-16 07:45:00 Physician Resident Progress Note
Chief Complaint: Unknown Overdose, + TCA
   24 Hour Events:
   Pt. remained intubated overnight, switched to propofol and was able to
   be awakened.  Responding to commands.
   Extubated prior to rounds this morning and doing well.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-3-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2181-3-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-16**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 106 (92 - 116) bpm
   BP: 125/83(93) {101/61(70) - 134/88(97)} mmHg
   RR: 17 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    400 mL
                                                                    835 mL
   PO:
             TF:
   IVF:
                                                                    400 mL
                                                                    835 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                  1,330 mL
   Urine:
                                                                    460 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -60 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 52.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/37/140/24/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Gen:  alert, extubated, NAD
   Pulm: rhonchorus R>L, good air entry
   CV: RRR, no m/c/r
   Abd:  soft, NT/NT
   Peripheral Vascular: pulses 2+
   Skin:  warm, dry
   Neurologic: alert and oriented, no focal changes
   Labs / Radiology
   243 K/uL
   13.9 g/dL
   144 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   41.2 %
   16.8 K/uL
        [image002.jpg]
                             [**2181-3-15**]  07:20 PM
                             [**2181-3-15**]  08:57 PM
                             [**2181-3-16**]  12:54 AM
   WBC
   14.7
   16.8
   Hct
   43.7
   41.2
   Plt
   247
   243
   Cr
   0.9
   0.9
   TCO2
   24
   Glucose
   99
   144
   Other labs: PT / PTT / INR:12.7/26.2/1.1, ALT / AST:25/17, Alk Phos / T
   Bili:107/0.6, Differential-Neuts:88.4 %, Lymph:8.0 %, Mono:2.7 %,
   Eos:0.6 %, Albumin:4.0 g/dL, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   42 yo M with unknown past medical history presents with apparent
   intentional drug overdose, with likely phenytoin and TCAs, now s/p
   intubation for airwary protection.
   .
   # Altered mental status: Unclear etiology but may be related to drug
   overdose. First dilantin level subtherapeutic but will need to be
   cautiously followed Q4H. If levels exceed 20, patient may need extra
   dose of charcoal due to risk of enterohepatic recirculation. TCA
   positive on Serum tox, but no EKG changes so less likely to be toxic
   from TCA. No clear toxic prodrome fits this clincal picture as patient
   without tachycardia, hypertension and diaphoresis (sympathomimetics);
   agitation, tachycardia, flushing (anticholinergics); miosis, lack of
   response to narcan (opiods); or autonomic instability, clonus, tremors
   (serotonin syndrome). No dramatic AG, so less likely ethylene glycol or
   methanol toxicity. Afebrile and without leukocytosis so infection seems
   less likely. No dramatic electrolyte abnormalities. Seizure less likely
   given dilantin level. CT head without acute ICH, but given questionable
   history and possiblilty of a fall, ICH must be ruled out.
   - Appreciate Toxicology input
   - Crystalloid IVFs
   - Change midazolam and fentanyl to propafol to avoid benzo intoxication
   clouding the mental status picture
   - Repeat lytes for AG, and LFTSs
   - Monitor Dilanitn Q4H and repeat charcoal if greater than 20
   - EKG Q4H and challenge with intravenous sodium bicarbonate ([**1-31**] meq/kg
   push) if QRS greater than 100ms
   - F/u CT head
   .
   # Airway protection: Intubated for airway protection, without overt
   respiratory failure. ABG without acidemia, hypoxia, or hypercarbia. CXR
   clear, with possibility of some signs of aspiration on right side.
   Given history of charcoal aspiration, extubation may be difficult
   tommorow.
   - Continue AC ventilation overnight
   - Change Fent/Midaz to Propafol as above in hopes of extubating
   tommorow. Wean propafol in AM.
   - RSBI in AM prior to rounds
   - Repeat ABG now
   .
   # Suicideal ideation: Per report patient was attempted to hurt himself
   by taking a "handful of pills".
   - Pt awake and conversant now
   - Will get psych consult to discuss suicidal ideation
   .
   # FEN: D51/2 NS, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals x2
   # Communication: None. No response at family phone numbers. Will call
   family per patent
s request today
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement and psych eval
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-3-15**] 06:47 PM
   22 Gauge - [**2181-3-15**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-03-16 10:29:00 Physician Attending Progress Note
Chief Complaint: Phenytoin, TCA overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated this AM
   QRS remained narrow overnight
   c/o dizziness this AM
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-3-15**] 06:00 PM
 EKG - At [**2181-3-16**] 12:03 AM
   every 4 hrs.
 EKG - At [**2181-3-16**] 04:37 AM
   every 4 hrs, done at 0425
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-3-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2181-3-15**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Neurologic: dizziness
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-3-16**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 106 (92 - 116) bpm
   BP: 125/83(93) {101/61(70) - 134/88(97)} mmHg
   RR: 17 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    400 mL
                                                                  1,142 mL
   PO:
             TF:
   IVF:
                                                                    400 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                  1,480 mL
   Urine:
                                                                    460 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -60 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 52.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/37/140/24/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.9 g/dL
   243 K/uL
   144 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   41.2 %
   16.8 K/uL
        [image002.jpg]
                             [**2181-3-15**]  07:20 PM
                             [**2181-3-15**]  08:57 PM
                             [**2181-3-16**]  12:54 AM
   WBC
   14.7
   16.8
   Hct
   43.7
   41.2
   Plt
   247
   243
   Cr
   0.9
   0.9
   TCO2
   24
   Glucose
   99
   144
   Other labs: PT / PTT / INR:12.7/26.2/1.1, ALT / AST:25/17, Alk Phos / T
   Bili:107/0.6, Differential-Neuts:88.4 %, Lymph:8.0 %, Mono:2.7 %,
   Eos:0.6 %, Albumin:4.0 g/dL, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O SUICIDALITY / SUICIDE ATTEMPT
   42 yo man with dilantin, TCA overdose as a suicide attempt.  No
   extubated.
   Multisubstance overdose: Did well overnight.  Dilantin level has
   remained flat and EKG has remained normal.  Toxicaology follwing
   Psych: Psychiatry consult. 1:1 sitter.
   Respireatory failure: Now extubated
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-3-15**] 06:47 PM
   22 Gauge - [**2181-3-15**] 06:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2181-03-17 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events. Pt HD stable on floor. Psych and tox evaluated Pt. meets
   section 12 criteria. Stable throughout the day.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-3-16**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2181-3-16**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-17**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 97 (89 - 137) bpm
   BP: 124/82(91) {114/72(81) - 142/111(116)} mmHg
   RR: 20 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,515 mL
                                                                     57 mL
   PO:
             TF:
   IVF:
                                                                  2,515 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    210 mL
   Urine:
                                                                  3,170 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -655 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 35%
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: AOX3, NAD
   Cards: rrr no m/r/g
   Resp: CTAB
   Abd: suprapubic tenderness, soft, very slightly distended no
   organomegaly, +BS
   Ext: WWP, no c/c/e
   Labs / Radiology
   243 K/uL
   13.9 g/dL
   144 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   41.2 %
   16.8 K/uL
        [image002.jpg]
                             [**2181-3-15**]  07:20 PM
                             [**2181-3-15**]  08:57 PM
                             [**2181-3-16**]  12:54 AM
   WBC
   14.7
   16.8
   Hct
   43.7
   41.2
   Plt
   247
   243
   Cr
   0.9
   0.9
   TCO2
   24
   Glucose
   99
   144
   Other labs: PT / PTT / INR:12.7/26.2/1.1, ALT / AST:25/17, Alk Phos / T
   Bili:107/0.6, Differential-Neuts:88.4 %, Lymph:8.0 %, Mono:2.7 %,
   Eos:0.6 %, Albumin:4.0 g/dL, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   42 yo M with unknown past medical history presents with apparent
   intentional drug overdose, with likely phenytoin and TCAs, now s/p
   intubation for airwary protection.
   .
   # Altered mental status: Appears to be related to drug overdose. First
   dilantin level subtherapeutic but will need to be cautiously followed
   Q4H. If levels exceed 20, patient may need extra dose of charcoal due
   to risk of enterohepatic recirculation. TCA positive on Serum tox, but
   no EKG changes so less likely to be toxic from TCA. No clear toxic
   prodrome fits this clincal picture as patient without tachycardia,
   hypertension and diaphoresis (sympathomimetics); agitation,
   tachycardia, flushing (anticholinergics); miosis, lack of response to
   narcan (opiods); or autonomic instability, clonus, tremors (serotonin
   syndrome). No dramatic AG, so less likely ethylene glycol or methanol
   toxicity. Afebrile and without leukocytosis so infection seems less
   likely. No dramatic electrolyte abnormalities. Seizure less likely
   given dilantin level. CT head without acute ICH, but given questionable
   history and possiblilty of a fall, ICH must be ruled out.
   - Appreciate Toxicology input
   - Crystalloid IVFs
   - Trend daily lytes
   - Continuing to monitor on tele
   .
   # Suicideal ideation: Per report patient was attempted to hurt himself
   by taking a "handful of pills".
   - Pt awake and conversant now
   - Per psych, Pt can be Section 12 when medically stable
   .
   # FEN: D51/2 NS, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals x2
   # Communication: None. No response at family phone numbers. Will call
   family per patent
s request today
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement, section 12. Call out
   to medicine or psych this AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-3-15**] 06:48 PM
   20 Gauge - [**2181-3-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-03-17 11:18:00 Physician Attending Progress Note
Chief Complaint: Dilantin, TCA overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM
   Did well overnight
   Mood much better this AM and conversive/interactive with team
   24 Hour Events:
 EKG - At [**2181-3-16**] 08:00 AM
   every 4 hrs, done at 0425
 INVASIVE VENTILATION - STOP [**2181-3-16**] 08:15 AM
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-3-16**] 11:59 PM
   Famotidine (Pepcid) - [**2181-3-17**] 07:46 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-3-17**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 117 (89 - 117) bpm
   BP: 127/88(97) {114/72(81) - 138/111(116)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,515 mL
                                                                    162 mL
   PO:
             TF:
   IVF:
                                                                  2,515 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    425 mL
   Urine:
                                                                  3,170 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -655 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffuse mild
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   14.2 g/dL
   181 K/uL
   87 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   107 mEq/L
   141 mEq/L
   42.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2181-3-15**]  07:20 PM
                             [**2181-3-15**]  08:57 PM
                             [**2181-3-16**]  12:54 AM
                             [**2181-3-17**]  04:11 AM
   WBC
   14.7
   16.8
   9.7
   Hct
   43.7
   41.2
   42.1
   Plt
   247
   243
   181
   Cr
   0.9
   0.9
   1.0
   TCO2
   24
   Glucose
   99
   144
   87
   Other labs: PT / PTT / INR:12.5/28.2/1.1, ALT / AST:25/17, Alk Phos / T
   Bili:107/0.6, Differential-Neuts:88.4 %, Lymph:8.0 %, Mono:2.7 %,
   Eos:0.6 %, Albumin:4.0 g/dL, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O SUICIDALITY / SUICIDE ATTEMPT
   Assessment and Plan
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O SUICIDALITY / SUICIDE ATTEMPT
   42 yo man with dilantin, TCA overdose as a suicide attempt.  No
   extubated.
   Multisubstance overdose: Doing well - data to this point not consistent
   with ongoing toxic effect of meds
   Psych: Psychiatry following. 1:1 sitter.  Will likely go to inpt psych
   stay when medical issues resolved
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-3-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: